US07943622B2
Step 1. Synthesis of 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate
Palladium hydroxide on carbon (˜10% Pd, 84 mg, 0.06 mmol) was added to a mixture of 1-(1-(benzyloxycarbonyl)piperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate (0.665 g, 1.20 mmol) and ammonium formate (0.151 g, 2.40 mmol) in EtOH (10 mL). The reaction mixture was heated to 70° C. for 2 h. Upon cooling to rt, the reaction mixture was filtered though Celite®, and the filtrate was concentrated under reduced pressure. This gave 0.5278 g of crude product. LC-MS: RT=4.50 min, [M+H]+=421.2.

reactant | 1-(1-(benzyloxycarbonyl)piperidin-4-yl) 4-tert-butyl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | 1.20 mmol, 0.665 g | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C29H38N4O7
reactant | ammonium formate | 2.40 mmol, 0.151 g | C(=O)[O-].[NH4+]
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Palladium hydroxide on carbon | 0.06 mmol, 84 mg | [OH-].[OH-].[Pd+2]
product | 4-tert-butyl 1-piperidin-4-yl 2-((pyridin-3-yloxy)methyl)piperazine-1,4-dicarboxylate | N1=CC(=CC=C1)OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC1CCNCC1 | C21H32N4O5
